US07384934B2
(S)-1,4-Dibenzyl-2-Vinyl-piperazine
Combine (S)-1,4-dibenzyl-2-vinyl-piperazine mandelic acid salt (200.0 g, 0.450 mol), water (1 L), and 5N sodium hydroxide (112.5 mL, 0.562 mol) and stir at ambient temperature for 15 minutes. Add MTBE (1 L) and stir at ambient temperature for 1 hour. Layer separate and wash the organics with water (2×1 L). Dry the organics over sodium sulfate, filter and concentrate in vacuo to afford 131.2 g of the title compound as an oil (99.7%). 1H NMR (500 MHz, DMSO-d6) δ 2.00 (bt, 1H), 2.07 (d, 2H), 2.56 (m, 1H), 2.58 (d, 2H), 2.84 (t, 1H), 3.02 (d, 1H), 3.49 (s, 2H), 3.91 (d, 1H), 5.15 (d, 1H), 5.25 (d, 1H), 5.81 (m, 1H), 7.27 (m, 10H). MS (ES+) M+H calcd for C20H24N2 292.43; found 293.10.

reactant | (S)-1,4-dibenzyl-2-vinyl-piperazine mandelic acid salt | 0.450 mol, 200.0 g | C(C(O)C1=CC=CC=C1)(=O)O.C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C
reactant | water | 1 L | O | H2O
reactant | sodium hydroxide | 0.562 mol, 5N, 112.5 mL | [OH-].[Na+]
solvent | MTBE | 1 L | CC(C)(C)OC | C5H12O
product | (S)-1,4-Dibenzyl-2-Vinyl-piperazine | 131.2 g, 99.7% | C(C1=CC=CC=C1)N1[C@H](CN(CC1)CC1=CC=CC=C1)C=C | C20H24N2
